simulator lang=spectre
global 0

ahdl_include "dut_buggy.va"

Vsample (sample 0) vsource type=pulse val0=0 val1=0.9 delay=20n rise=200p fall=200p width=5n period=200n
Vrst (rst 0) vsource type=pwl wave=[0 0 110n 0 111n 0.9 130n 0.9 131n 0 170n 0]

XDUT (sample rst vout) leaky_hold

tran tran stop=170n maxstep=500p
save sample rst vout
